US08865736B2
3-(5-Cyclopent-2-enyl-1H-inden-2-ylmethoxy)-2,6-difluoro-benzamide
To a solution of 2,6-Difluoro-3-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-inden-2-ylmethoxy]-benzamide (0.25 g, 0.56 mmol) in 7 ml of anhydrous DMF and water (3.5 ml) was added trifluoromethanesulfonic acid cyclopent-1-enyl ester (0.37 g, 1.70 mmol) and potassium phosphate (0.14 g, 0.60 mmol). The reaction mixture was degassed for 10 minutes followed by addition of dichlorobis(triphenyl phosphine) palladium (II) (0.05 g, 0.08 mmol). The reaction mixture was heated at 80° C. for 1 h under the nitrogen atmosphere. After the completion of the reaction mixture (TLC monitoring), water (25 mL) was added and extracted with ethyl acetate (3×50 mL). The combined organics was washed with water, brine, dried (Na2SO4), filtered and concentrated. The crude residue was purified over silica gel (230-400 M, 45% EtOAc-Hexane) to get the desired product (0.14 g, 65%) as a white solid. 1H NMR (DMSO-d6, 400 MHz): δ 1.22 (m, 2H), 2.01 (m, 2H), 2.88 (m, 2H), 5.68 (s, 2H), 6.43 (s, 1H), 7.01 (t, J=9.20 Hz, 1H), 7.37 (m, 1H), 7.67 (d, J=8.40 Hz, 1H), 7.89 (br s, 1H), 7.94 (s, 1H), 8.07 (d, J=8.40 Hz, 1H) and 8.18 (br s, 1H). MS ES+ (387.15), HPLC (method II) Rt=13.74 min.

reactant | 2,6-Difluoro-3-[5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-inden-2-ylmethoxy]-benzamide | 0.56 mmol, 0.25 g | FC1=C(C(=O)N)C(=CC=C1OCC=1CC2=CC=C(C=C2C1)B1OC(C(O1)(C)C)(C)C)F | C23H24BF2NO4
reactant | trifluoromethanesulfonic acid cyclopent-1-enyl ester | 1.70 mmol, 0.37 g | C1(=CCCC1)OS(=O)(=O)C(F)(F)F | C6H7F3O3S
reactant | potassium phosphate | 0.60 mmol, 0.14 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
solvent | water | 3.5 ml | O | H2O
solvent | water | 25 mL | O | H2O
product | 3-(5-Cyclopent-2-enyl-1H-inden-2-ylmethoxy)-2,6-difluoro-benzamide | 0.14 g, 65% | C1(C=CCC1)C=1C=C2C=C(CC2=CC1)COC=1C(=C(C(=O)N)C(=CC1)F)F | C22H19F2NO2
